US08008481B2
1-Bromo-pyrrolidine-2,5-dione (5.34 g, 30 mmol) was added to a stirred solution of N,N-dimethyl-N′-(1H-pyrrolo[2,3-c]pyridin-5-yl)-formamidine (Preparation #10b, 6.00 g, 31.9 mmol) in DMF (200 mL) at about 0° C. The reaction was allowed to warm to ambient temperature then stirred for about 1 hour. Benzenesulfonyl chloride (3.83 mL, 30.0 mmol) and Na2CO3 (6.36 g, 60.0 mmol) were added and the mixture was warmed at about 60° C. for about 1 hour. The reaction mixture was concentrated under reduced pressure and the dark solids were triturated with EtOAc (2×100 mL) and filtered. The combined EtOAc layers were passed through a 6 inch silica gel column, eluting with EtOAc. The product fractions were combined and concentrated to yield N′-(1-benzenesulfonyl-3-bromo-1H-pyrrolo[2,3-c]pyridin-5-yl)-N,N-dimethylformamidine (4.29 g, 35%) as a tan solid. RP HPLC (Table 1, Method e) Rt=2.18, m/z: (MH)+ 407/409.

reactant | 1-Bromo-pyrrolidine-2,5-dione | 30 mmol, 5.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-dimethyl-N′-(1H-pyrrolo[2,3-c]pyridin-5-yl)-formamidine | 31.9 mmol, 6.00 g | CN(C=NC=1C=C2C(=CN1)NC=C2)C | C10H12N4
reactant | Benzenesulfonyl chloride | 30.0 mmol, 3.83 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Na2CO3 | 60.0 mmol, 6.36 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | N′-(1-benzenesulfonyl-3-bromo-1H-pyrrolo[2,3-c]pyridin-5-yl)-N,N-dimethylformamidine | 4.29 g, 35% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=CN=C(C2)N=CN(C)C)Br | C16H15BrN4O2S
